US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-methylphenyl)urea dihydrochloride monohydrate
The procedure described in Example 3 was followed, using 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine (2.67 g; 10 mmole), methylene chloride (50 ml) and 4-tolyl isocyanate (1.33 g; 10 mmole). Recrystallization from methanol/methylene chloride provided the title compound (0.81 g; 17% yield) as colorless crystals, m.p. 131°-132° C.

reactant | 1-(3-aminopropyl)-4-(4-chlorobenzyl)piperazine | 10 mmole, 2.67 g | NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | C14H22ClN3
reactant | 4-tolyl isocyanate | 10 mmole, 1.33 g | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-(4-methylphenyl)urea dihydrochloride monohydrate | 0.81 g, 17% yield | O.Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2=CC=C(C=C2)C)C=C1 | InChI=1S/C22H29ClN4O.2ClH.H2O/c1-18-3-9-21(10-4-18)25-22(28)24-11-2-12-26-13-15-27(16-14-26)17-19-5-7-20(23)8-6-19;;;/h3-10H,2,11-17H2,1H3,(H2,24,25,28);2*1H;1H2
